US05334597
Step 1 (E)-Ethyl 3-(2-quinolinyl)propenoate
A solution of quinoline-2-carboxaldehyde (1.51 g, 9.65 mmol) in THF (15 ml) was heated under reflux with (carbethoxymethylene) triphenylphosphorane (3.36 g). After 2 hr, the THF was removed and the residue was chromatographed using toluene/EtOAc (18:1) as eluent to afford 1.70 g of the title compound.

reactant | quinoline-2-carboxaldehyde | 9.65 mmol, 1.51 g | N1=C(C=CC2=CC=CC=C12)C=O | C10H7NO
reactant | (carbethoxymethylene) triphenylphosphorane | 3.36 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (E)-Ethyl 3-(2-quinolinyl)propenoate | 1.70 g | N1=C(C=CC2=CC=CC=C12)/C=C/C(=O)OCC | C14H13NO2
